US07951815B2
1-benzyl-8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one (290 mg, 0.6 mmol) was dissolved in ethyl methyl ketone (2 mL), and water (6 μL) and TMSCl (80 μL) were added and the mixture was stirred overnight. The precipitated solid matter was isolated by filtration and dried in vacuo. The product 1-benzyl-8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 105 mg (95%).

reactant | 1-benzyl-8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one | 0.6 mmol, 290 mg | C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=C(C=C(C=C2)OC)OC)=O)CCSC)=O | C26H33N3O4S
reactant | water | 6 μL | O | H2O
reactant | TMSCl | 80 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 2 mL | CC(=O)CC | C4H8O
product | 1-benzyl-8-(2,4-dimethoxybenzoyl)-3-(S)-(2-methylsulfanylethyl)-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C1=CC=CC=C1)N1C([C@@H](NC12CCN(CC2)C(C2=C(C=C(C=C2)OC)OC)=O)CCSC)=O | InChI=1S/C26H33N3O4S.ClH/c1-32-20-9-10-21(23(17-20)33-2)24(30)28-14-12-26(13-15-28)27-22(11-16-34-3)25(31)29(26)18-19-7-5-4-6-8-19;/h4-10,17,22,27H,11-16,18H2,1-3H3;1H/t22-;/m0./s1
